US03931199
A mixture of 3 g of 5-oxo-5H-[1]benzopyrano[2,3-b]pyridine-7-carbonitrile, 30 ml of sulfuric acid, 30 ml of acetic acid and 30 ml of water is heated under reflux for 3 hours. The reaction mixture is poured on ice, and adjusted to pH 3 by addition of 10% sodium hydroxide. The crystalline precipitate is filtered off and recrystallized from a mixture of dioxane and dimethylformamide to give 1.5 g of 5-oxo-5H-[1]benzopyrano[2,3-b]pyridine-7-carboxylic acid melting at 293°-294°C.

reactant | 5-oxo-5H-[1]benzopyrano[2,3-b]pyridine-7-carbonitrile | 3 g | O=C1C2=C(OC3=NC=CC=C31)C=CC(=C2)C#N | C13H6N2O2
reactant | sulfuric acid | 30 ml | S(O)(O)(=O)=O | H2O4S
reactant | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 30 ml | O | H2O
product | 5-oxo-5H-[1]benzopyrano[2,3-b]pyridine-7-carboxylic acid | 1.5 g | O=C1C2=C(OC3=NC=CC=C31)C=CC(=C2)C(=O)O | C13H7NO4
